Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Keflex / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Critical aortic stenosis

 
Major Surgical or Invasive Procedure:
___ placement 

 
History of Present Illness:
___ yo F with CAD s/p CABG in ___ (LIMA to LAD, SVG to D2, SVG 
to ___ and SVG to OM), interstitial pulmonary fibrosis, DM, 
HTN, HLD, with progressive dyspnea on exertion, admitted for 
___. 
.
Briefly, patient has had longstanding aortic stenosis. Cardiac 
catheterizaiton at ___ in ___ which revealed a 90% distal LM
stenosis, 80% mLAD stenosis followed by T.O, 40% D1 stenosis, 
90%
ostial RCA stenosis and 60% PDA stenosis. The SVG's to D2 and 
SVG
to the ___ were patent. The SVG to OM occluded at ostium, LIMA
to LAD patent, distal LAD diffusely diseased. On ___, she
underwent stenting of the LM with a 3.5 x 8mm Bx velocity stent. 

.
Per patient, since ___, she has been getting progressive short 
of breath on exertion. She used to be able to perform all ADLs 
as well as work around the house. Now, she gets very short of 
breath with minimal exertion, and can only walk from her bed to 
the recliner. Her symptoms are of chest tightness. The dyspnea 
usually improved after sitting down for a while. She reports one 
episode of syncope in ___ where she suddenly loss 
consciousness. It is unclear whether that was also associated 
with hypoglycemia. 
.  
On arrival to the floor, patient was alert and oriented, mildly 
short of breath when speaking, but other comfortable. Vitals 
were HR 60, BP 125/71, RR 38, O2 sat 94% RA. 
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, palpitations.
 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
-CABG: CABG in ___ at ___ with a LIMA to LAD, SVG to D2, SVG
to ___ and SVG to OM (known occluded).  
-PERCUTANEOUS CORONARY INTERVENTIONS: In ___, cath showed 90% 
distal LM stenosis which was stented with a 3.5 x 8mm Bx 
velocity stent.
Also showed 80% mLAD stenosis followed by T.O, 40% D1 stenosis, 
90%
ostial RCA stenosis and 60% PDA stenosis. The SVG's to D2 and 
SVG
to the ___ were patent.  The SVG to OM occluded at ostium, LIMA
to LAD patent, distal LAD diffusely diseased. 
-PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
-  Fractured rib on left from last month from coughing
excessively r/t a sinus infection
-  Diabetes Type II, on oral agents
-  Complete hysterectomy and oopherectomy ___ for ovarian CA. 
No recurrence noted
-   Pulmonary fibrosis - Marked restrictive ventilatory defect 
on PFTs and severe fibrosis and low FVC on chest CT. 
 
Social History:
___
Family History:
There is a family history of hypertension, diabetes, and heart 
disease but not stroke.  Her mother died at ___ of gall bladder 
infection and her father died at ___ of stomach cancer. No family 
history of early MI, arrhythmia, cardiomyopathies, or sudden 
cardiac death.  
 
Physical Exam:
Physical exam on admission:
VS: T=97.3 BP=125-132/71 HR=60 RR=38 O2 sat=94% RA  
GENERAL: Elderly woman, lying in bed, mildly short of breath 
when speaking  
HEENT: PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa. No xanthalesma.  
NECK: Supple with JVP of 6 cm.  
CARDIAC: S1, S2 obscured, Grade IV/VI crescendo-decrescendo 
systolic ejection murmur radiating to the carotics 
LUNGS: Mild shortness of breath. Moving air appropriately, dry 
crackles diffusely 
ABDOMEN: +bs, soft, multiple scars well healed. Non-tender, 
non-distended.  
EXTREMITIES: 1+ edema to the ankles b/l, mild edema in the 
hands, r>l
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
___ 12:58AM BLOOD WBC-8.3 RBC-3.56* Hgb-11.3* Hct-33.7* 
MCV-95 MCH-31.7 MCHC-33.5 RDW-14.6 Plt ___
___ 03:08AM BLOOD WBC-7.6 RBC-3.48* Hgb-10.8* Hct-32.5* 
MCV-93 MCH-31.0 MCHC-33.2 RDW-14.6 Plt ___
___ 12:58AM BLOOD Glucose-177* UreaN-40* Creat-0.9 Na-142 
K-3.9 Cl-105 HCO3-30 AnGap-11
___ 03:08AM BLOOD Glucose-182* UreaN-45* Creat-1.0 Na-138 
K-4.3 Cl-101 HCO3-32 AnGap-9
___ 03:09AM BLOOD ALT-25 AST-81* LD(LDH)-328* CK(CPK)-210* 
AlkPhos-116* Amylase-22 TotBili-3.3*
___ 12:58AM BLOOD Calcium-9.9 Mg-1.___
IMPRESSION: 
1. No evidence of cerebral artery occlusion. 
2. Atherosclerotic disease as mentioned above. 
3. Lung parenchymal opacities better appreciated on recent lung 
imaging. 
  
MR head ___
FINDINGS: Extremely limited study. The ventricles and sulci are 
prominent, 
suggestive of age-related volume loss. No other findings can be 
made from 
this nondiagnostic study. The patient was immediately referred 
to CT 
angiogram.

Echo: 
Conclusions  
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Right ventricular chamber size and free wall motion 
are normal. There is abnormal septal motion/position. An aortic 
___ prosthesis is present. The aortic valve prosthesis 
appears well seated, with normal leaflet/disc motion and 
transvalvular gradients. Trace aortic regurgitation and a very 
small paravalvular leak are seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Well-seated, normally functioning aortic ___ 
prosthesis with trace aortic regurgitation and a very small 
paravalvular leak. Normal left ventricular cavity size and wall 
thickness with preserved global and regional biventricular 
systolic function. Mild mitral regurgitation. Mild pulmonary 
artery systolic hypertension. 

Compared with the prior study (images reviewed) of ___, 
the findings are similar. Previously, the very small aortic 
paravalvular leak was not commented upon, but appears to have 
been present.   
  Electronically signed by ___, MD, Interpreting 
physician ___ ___ 15:48  
   

___ 05:30AM BLOOD WBC-9.8 RBC-3.64* Hgb-11.6* Hct-34.0* 
MCV-93 MCH-31.9 MCHC-34.1 RDW-14.7 Plt ___
___ 05:30AM BLOOD Glucose-142* UreaN-33* Creat-0.9 Na-142 
K-4.2 Cl-104 HC___ AnGap-13
 
Brief Hospital Course:
Medicine Course:
___ yo F with CAD s/p CABG in ___ (LIMA to LAD, SVG to D2, SVG 
to dRCA and SVG to OM), interstitial pulmonary fibrosis, DM, 
HTN, HLD, with progressive dyspnea on exertion, admitted for 
___ palcement. 
.
# Aortic stenosis: Patient has critical aortic stenosis with 
most recent valve area measurement of 0.7 cm2. She is currently 
showing symptoms of dyspnea on minimal exertion. Patient deemed 
"extreme risk" for surgical aortic valve replacement. Patient 
admitted for ___ placement.
.
# Interstitial pulmonary fibrosis: New diagnosis for patient, 
but likely long-standing. Dyspnea on exertion is at least 
particially due to pulmonary disease. Recent CT chest showed 
severe diffuse pulmonary fibrosis and marked restrictive 
ventilatory defect on PFTs. Did not require oxygen at baseline. 
Patient continued on home albuterol inhaler and Advair. 
.
# Coronary artery disease: Longstanding, s/p CABG in ___ (LIMA 
to LAD, SVG to D2, SVG to dRCA and SVG to OM), which on recent 
cardiac catheterization showed three vessel disease. Patient 
currently asymptomatic.
.  
# Diabetes: Patient only on glyburide at home, which was held. 
Patient placed on Humalog sliding scale.

Cardiac Surgery Course:
The patient was taken to the operating room on ___ where she 
underwent ___ placement with Dr. ___ Dr. ___.  
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for observation and recovery.  Shortly following 
arrival in ___, the patient developed cardiac arrest requiring 
re-intubation and resuscitation.  Echo revealed free air in the 
right atrium and ventricles.  She also developed rapid atrial 
fibrillation and eventually converted to SR with electrical and 
chemical cardioversion.  Transvenous wire was placed on ___ at 
the bedside by Dr. ___ second degree heart block.  The 
patient developed a fever.  Sputum cultures would grow 
Pseudomonas.  The patient was treated with appropriate 
antibiotics.  
When the patient was weaned from sedation, she was unable to 
move the left upper extremity. Neurology was consulted for 
evaluation and she was confirmed to have a CVA. Eventually 
extubated on ___. Swallowing eval done and she had 
confusion. Supportive care given while she remained in the CVICU 
for monitoring. 
Now alert and oriented and following commands. Aphasia resolved 
and LUE remains as the only deficit. Transferred to the floor on 
POD # 18. Cleared for discharge to ___ in 
___ on POD #19. Follow up appts were advised.
 
Medications on Admission:
ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol Inhaler - 
two
puffs inhaled 4 times daily
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 250 mcg-50 mcg/Dose 
Disk
with Device - twoq puffs inhaled twice daily
GLYBURIDE -  (Prescribed by Other Provider) - 2.5 mg Tablet - 1
Tablet(s) by mouth twice a day
ISOSORBIDE MONONITRATE -  (Prescribed by Other Provider) - 30 mg
Tablet Extended Release 24 hr - 1 Tablet(s) by mouth daily
LEVOTHYROXINE -  (Prescribed by Other Provider) - 100 mcg Tablet 
-
1 Tablet(s) by mouth daily
METOPROLOL TARTRATE -  (Prescribed by Other Provider) - 50 mg
Tablet - 1 Tablet(s) by mouth Three times daily
SIMVASTATIN -  (Prescribed by Other Provider) - 80 mg Tablet - 1
Tablet(s) by mouth daily at hs
. 
Medications - OTC
ASPIRIN -  (Prescribed by Other Provider) - 325 mg Tablet - 1
Tablet(s) by mouth daily
CALCIUM CARBONATE -  (Prescribed by Other Provider) - 600 mg
(1,500 mg) Tablet - one Tablet(s) by mouth daily
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] - 2,000 unit Capsule -
one Capsule(s) by mouth daily
GLUCOSAMINE-CHONDROIT-VIT C-MN [GLUCOSAMINE 1500 COMPLEX] - 
(Prescribed by Other Provider) - 500 mg-400 mg Capsule - two
Capsule(s) by mouth daily
MULTIVITAMIN-MINERALS-LUTEIN [CENTRUM SILVER] -  (Prescribed by
Other Provider) -   Tablet - one Tablet(s) by mouth daily

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Critical aortic stenosis s/p ___ AVR
Diabetes mellitus
Coronary artery disease
CVA
Post-op respiratory failure
.
SECONDARY:
Interstitial pulmonary fibrosis

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and Oriented
Activity Status: max assist- pivots briefly
LUE- moves thumb only

 
Discharge Instructions:
Please shower daily including washing puncture sites in groins 
with mild soap, no baths or swimming for 1 week until groin 
sites are healed.  
Please NO lotions, cream, powder, or ointments to puncture sites 
in your groins
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for one month, will be discussed at follow up 
appointment  
No lifting or pulling more than 10 pounds for 1 week, and then 
continue to take it easy for 1 month 
Please call with any questions or concerns ___

**Please call Integrated Aortic valve clinic in cardiac surgery 
office with any questions or concerns ___. Answering 
service will contact on call person during off hours**
 
Followup Instructions:
___